US03980634
N-(2-Hydroxyethyl)-4-nitrophthalimide (30.0 g.), ethanol (300 ml.), and Raney nickel (3.0 g.) are mixed and hydrogenated at 100°C. and 1500 psi. until hydrogen uptake ceases. The hot solution is filtered to remove the Raney nickel and the solvent evaporated to yield 4-amino-N-(2-hydroxyethyl)-phthalimide, the amine which melts at 171°-173°C.

reactant | N-(2-Hydroxyethyl)-4-nitrophthalimide | 30.0 g | OCCN1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C10H8N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-amino-N-(2-hydroxyethyl)-phthalimide | NC=1C=C2C(C(=O)N(C2=O)CCO)=CC1 | C10H10N2O3
